US06001883
66A 5-chloro-6,6'-dimethyl-3'-propionyloxy-2,2',4'-trimethoxybenzophenone
5-Chloro-2-methoxy-6-methylbenzoic acid (6.00 g, 0.03 mol) is reacted with 3,5-dimethoxy-4-propionyloxytoluene (6.73 g; 0.03 mol) in the presence of P2O5 (18.0 g) and dichloromethane (200 ml) as described in Example 6 yielding white crystals, 6.65 g (56.4% ), mp 150-151° C.

reactant | 5-Chloro-2-methoxy-6-methylbenzoic acid | 0.03 mol, 6.00 g | ClC=1C=CC(=C(C(=O)O)C1C)OC | C9H9ClO3
reactant | 3,5-dimethoxy-4-propionyloxytoluene | 0.03 mol, 6.73 g | COC=1C=C(C=C(C1OC(CC)=O)OC)C | C12H16O4
reactant | P2O5 | 18.0 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 5-chloro-6,6'-dimethyl-3'-propionyloxy-2,2',4'-trimethoxybenzophenone | ClC=1C=CC(=C(C(=O)C2=C(C(=C(C=C2C)OC)OC(CC)=O)OC)C1C)OC | C21H23ClO6
